US07060844B2
To a stirred suspension of 3-[5-(2-hydroxy-ethylamino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one (100 mg, 0.324 mmol) and bromoacetic anhydride (126 mg, 0.486 mmol) in THF (3 ml), was added 4-dimethylaminopyridine (10 mg, 0.082 mmol). The mixture was stirred at room temperature for 1 hour and then poured into water (75 ml). The solid was filtered, washed with water and dried under vacuum to give bromo-acetic acid 2-[1-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-ylamino]-ethyl ester as a yellow solid (108 mg, 78%).

reactant | 3-[5-(2-hydroxy-ethylamino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one | 0.324 mmol, 100 mg | OCCNC=1C=C2COC(C2=CC1)=C1C(NC2=CC=CC=C12)=O | C18H16N2O3
reactant | bromoacetic anhydride | 0.486 mmol, 126 mg | BrCC(=O)OC(CBr)=O | C4H4Br2O3
reactant | water | 75 ml | O | H2O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.082 mmol, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | bromo-acetic acid 2-[1-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-ylamino]-ethyl ester | 108 mg, 78% | O=C1NC2=CC=CC=C2C1=C1OCC2=CC(=CC=C12)NCCOC(CBr)=O | C20H17BrN2O4
